US07262185B2
2-mercaptopyridine (2.6 g) was dissolved in THF (52 ml), triethylamine (3.9 ml) was added to the mixture, and then, a solution of 4-nitrobenzyl bromide (4.8 g) in. THF (24 ml) was added dropwise to the mixture. The reaction solution was stirred for 30 minutes at room temperature, added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography, to give 2-[(4-nitrobenzyl)sulfanyl]pyridine (4.2 g).

reactant | 2-mercaptopyridine | 2.6 g | SC1=NC=CC=C1 | C5H5NS
reactant | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzyl bromide | 4.8 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | THF | 52 ml | C1CCOC1 | C4H8O
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | 2-[(4-nitrobenzyl)sulfanyl]pyridine | 4.2 g | [N+](=O)([O-])C1=CC=C(CSC2=NC=CC=C2)C=C1 | C12H10N2O2S
